US06384234B1
1,1,2,2-tetrafluoroethyldiethylamine is prepared by the addition of tetrafluoroethylene at pressures of up to 700 kPa (100 psig) to an agitated solution of diethylamine. Equipment used for this preparation consists of a one liter bomb in a barricaded rocker arm, on account of the explosive nature of tetrafluoroethylene at elevated pressures. The reaction is carried out between 25 and 91° C. The obtained crude product is fractionated at 14 kPa of pressure (100 mm Hg) to yield a liquid product having a boiling point between 70 and 90° C.

reactant | tetrafluoroethylene | FC(=C(F)F)F | C2F4
reactant | diethylamine | C(C)NCC | C4H11N
product | 1,1,2,2-tetrafluoroethyldiethylamine | FC(C(F)F)(F)N(CC)CC | C6H11F4N
